US07345056B2
16-(4-Chloro-benzenesulfonyl)-4,8,9,16-tetraaza-tetracyclo[10,3,1,02,10,05,9]-hexadeca-2(10),3,5,7-tetraene
Prepared as described in Example 5 using 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one which was prepared as described in Example 34 and 3-aminopyrazole.

reactant | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 16-(4-Chloro-benzenesulfonyl)-4,8,9,16-tetraaza-tetracyclo[10,3,1,02,10,05,9]-hexadeca-2(10),3,5,7-tetraene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NC4=CC=NN4C3CC1CCC2 | C18H17ClN4O2S
